US08389743B2
(2R)-1-{2-Chloro-4-[trans-3-(pyrrolidin-1-ylcarbonyl)cyclobutyl]benzyl}-2-methylpyrrolidine hydrochloride
To a solution of Intermediate 6, (2R)-1-{2-chloro-4-[3-(pyrrolidin-1-ylcarbonyl)cyclobut-1-en-1-yl]benzyl}-2-methylpyrrolidine, trifluoroacetate (1.06 mmol) in 5 mL of ethanol was added chlorotris(triphenylphosphine)rhodium(I) (100 mg, 0.106 mmol). The mixture was hydrogenated (40 psi H2, at 50° C.) for 3 h. The reaction was monitored by LCMS. The mixture was evaporated to dryness, then 5 ml of 1N HCl was added to the residue and the solution was extracted with ethyl acetate (2×5 ml), the organic layers were discarded. 10N NaOH (1 mL) was added to the water layer and the water solution was extracted with ethyl acetate (3×5 mL). The organic layers were dried and evaporated in vacuo. The residue was purified by chromatography (SiO2 63/100 μm, 10 g, CHCl3/hexane 80:20→100:0, CHCl3/MeOH 100:0→90:10). The product containing fractions were collected and concentrated under reduced pressure. The residue was dissolved in 2 ml of ether and 0.1 mL of 4N HCl/dioxane was added under stirring. The solvent was evaporated; the residue was dried in vacuum to afford the HCl salt of the title compound (80 mg, 20%) as a dark yellow amorphous solid. LCMS data: 361 and 363 (M+H)+ (calculated for C21H29ClN2O 360.93). 1H NMR data (CD3OD): δ 7.63 (d, 1H, J=7.5 Hz), 7.50 (s, 1H), 7.39 (d, 1H, J=7.5 Hz), 4.75 (d, 1H, J=13.3 Hz), 4.31 (d, 1H, J=13.3 Hz), 3.63-3.77 (m, 2H), 3.34-3.52 (m, 7H), 2.64-2.75 (m, 2H), 2.33-2.49 (m, 3H), 1.72-2.20 (m, 7H), 1.51 (d, 3H, J=6.3 Hz).

reactant | (2R)-1-{2-chloro-4-[3-(pyrrolidin-1-ylcarbonyl)cyclobut-1-en-1-yl]benzyl}-2-methylpyrrolidine | ClC1=C(CN2[C@@H](CCC2)C)C=CC(=C1)C1=CC(C1)C(=O)N1CCCC1 | C21H27ClN2O
reactant | trifluoroacetate | 1.06 mmol | FC(C(=O)[O-])(F)F
solvent | ethanol | 5 mL | C(C)O | C2H6O
catalyst | chlorotris(triphenylphosphine)rhodium(I) | 0.106 mmol, 100 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.[Cl-].[Rh]
product | (2R)-1-{2-Chloro-4-[trans-3-(pyrrolidin-1-ylcarbonyl)cyclobutyl]benzyl}-2-methylpyrrolidine hydrochloride | 80 mg, 20% | Cl.ClC1=C(CN2[C@@H](CCC2)C)C=CC(=C1)[C@@H]1C[C@H](C1)C(=O)N1CCCC1 | InChI=1S/C21H29ClN2O.ClH/c1-15-5-4-10-24(15)14-17-7-6-16(13-20(17)22)18-11-19(12-18)21(25)23-8-2-3-9-23;/h6-7,13,15,18-19H,2-5,8-12,14H2,1H3;1H/t15-,18-,19-;/m1./s1
